US04588732
A solution of 5-(p-hydroxymethylphenyl)imidazo[1,5-a]pyridine (0.52 g) in 10 ml of methylene chloride is refluxed with 5.2 g of activated manganese dioxide for 24 hours. An additional 5.2 g of manganese dioxide is added and the reaction mixture is refluxed an additional 6 hours, filtered, and the solvent is evaporated to yield 5-(p-formylphenyl)-imidazo[1,5-a]pyridine, m.p. 144°-146°.

reactant | 5-(p-hydroxymethylphenyl)imidazo[1,5-a]pyridine | 0.52 g | OCC1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C14H12N2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 5.2 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 5.2 g | [O-2].[O-2].[Mn+4]
product | 5-(p-formylphenyl)-imidazo[1,5-a]pyridine | C(=O)C1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C14H10N2O
